*** nmos analysis ***

.lib "$PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

Vds Vds 0 DC 0
Vgs Vgs 0 DC 0
Xn1 Vds Vgs 0 0 MY_NFET

*** devices ***
.subckt MY_PFET Vs Vg Vd Vb W_val=5 L_val=0.30
    XMP Vd Vg Vs Vb sky130_fd_pr__pfet_01v8 W='W_val' L='L_val' 
+ ad=  {int((nf+1)/2)*w/nf*0.29}
+ as=  {int((nf+2)/2)*w/nf*0.29}
+ pd=  {2*int((nf+1)/2)*(w/nf+0.29)}
+ ps=  {2*int((nf+2)/2)*(w/nf+0.29)}
+ nrd= {0.29/w}
+ nrs= {0.29/w}
+ sa = 0 sb = 0 sd = 0
.ends MY_PFET

.subckt MY_NFET Vd Vg Vs Vb W_val=5 L_val=0.15
    XMN Vd Vg Vs Vb sky130_fd_pr__nfet_01v8 W='W_val' L='L_val' 
+ ad=  {int((nf+1)/2)*w/nf*0.29}
+ as=  {int((nf+2)/2)*w/nf*0.29}
+ pd=  {2*int((nf+1)/2)*(w/nf+0.29)}
+ ps=  {2*int((nf+2)/2)*(w/nf+0.29)}
+ nrd= {0.29/w}
+ nrs= {0.29/w}
+ sa = 0 sb = 0 sd = 0
.ends MY_NFET

.control
    echo "vds,vgs,id,gm,gm_over_id,gm_r0" > "nmos_analysis.csv"
    
    let Vds_val = 0
    let Vgs_val = 0

    while Vds_val <= 1.8
        while Vgs_val <= 1.8
            alter Vds = Vds_val
            alter Vgs = Vgs_val
            op
            let id = -Vds#branch
            let gm = @m.xn1.xmn.msky130_fd_pr__nfet_01v8[gm]
            let gds = @m.xn1.xmn.msky130_fd_pr__nfet_01v8[gds]
            let gm_over_id = gm/id
            let gm_r0 = gm * (1/gds)
            echo "$&Vds,$&Vgs,$&id,$&gm,$&gm_over_id,$&gm_r0" >> "nmos_analysis.csv"
            let Vgs_val = Vgs_val + 0.05
        end
        let Vgs_val = 0
        let Vds_val = Vds_val + 0.05
    end
    quit
.endc